### PR TITLE
[Merged by Bors] - feat(Topology/Algebra/Module/WeakDual): prove basic relations between the weak topology and the original topology

### PR DESCRIPTION
**Pull request by yoh-tanimoto**
(This PR continues #11472)
Prove the following basic facts about the weak topology in a topological vector space (or AddCommMonoid) `E`.
- any set that is open in the weak topology is open in the original topology.
- any function in `E` that converges to a point in the original topology (with respect to some filter) converges also in the weak topology.
- if a function in `E` converges to a point in the original topology, then its composition with a continuous linear functional converges.
- any function from `E` that is continuous in the weak topology is also continuous in the original topology.

Motivation: WeakSpace has some basic properties, analogue of which are proved for WeakDual.

I have some doubts:
- in order to avoid typeclass instance problem, I had to add a type ascription `continuousLinearMapToWeakSpace : E →L[𝕜] WeakSpace 𝕜 E` when needed. Is this fine or is there a canonical way to avoid it? (I tried to add `variable (𝕜 E) in` before def/thm but it gave type mismatch in many places)
- I made two theorems about IsOpen, but not sure about the naming convention.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by mcdoll** [comment]
You get the type-mismatch because you have to now write `continuousLinearMapToWeakSpace k E`.
The general rule is that if you want reviews you should make sure that CI passes (you get a green checkmark after the commit), see https://leanprover-community.github.io/contribute/index.html#lifecycle-of-a-pr

**Comment by yoh-tanimoto** [comment]
thanks for your comments, I wrote `𝕜 E` where necessary.

In order to avoid lint errors, I deleted `toWeakSpace_eq_iff` which could be proved by one `simp only [@EmbeddingLike.apply_eq_iff_eq]`.

I would like to have a comment on the naming convention of `isOpen_of_isOpen_WeakSpace`, `isOpen_of_isOpen_WeakSpace'`

File: Mathlib/Topology/Algebra/Module/WeakDual.lean [hunk 1]
```diff
@@ -326,6 +353,64 @@ theorem coe_map (f : E →L[𝕜] F) : (WeakSpace.map f : E → F) = f :=
...
+/-- The canonical preimage in `E` of an open set in `WeakSpace 𝕜 E` is open in `E`. -/
+theorem isOpen_of_isOpen_WeakSpace (U : Set (WeakSpace 𝕜 E))
+    (hU : IsOpen[(WeakSpace.instTopologicalSpace : TopologicalSpace (WeakSpace 𝕜 E))] U) :
+    IsOpen ((continuousLinearMapToWeakSpace 𝕜 E) ⁻¹' U) := by
+  exact ((continuousLinearMapToWeakSpace 𝕜 E).cont).isOpen_preimage U hU
+
+/-- A set in `E` which is open in the weak topology is open. -/
+theorem isOpen_of_isOpen_WeakSpace' (V : Set E)
+    (hV : IsOpen[(WeakSpace.instTopologicalSpace)]
+    ((continuousLinearMapToWeakSpace 𝕜 E) '' V : Set (WeakSpace 𝕜 E))) : IsOpen V := by
```
Comment (mcdoll) [inline Mathlib/Topology/Algebra/Module/WeakDual.lean:365]:
```suggestion
/-- The canonical map `E →L[𝕜] WeakSpace 𝕜 E` is open. -/
theorem isOpenMap (continuousLinearMapToWeakSpace 𝕜 E) := by
  intro V hV
```

File: Mathlib/Topology/Algebra/Module/WeakDual.lean [hunk 2]
```diff
@@ -326,6 +353,64 @@ theorem coe_map (f : E →L[𝕜] F) : (WeakSpace.map f : E → F) = f :=
...
+     rw [toWeakSpace_eq_continuousLinearMapToWeakSpace,
+       toWeakSpace_eq_continuousLinearMapToWeakSpace] at hy
+     have : y = x := LinearEquiv.injective (toWeakSpace 𝕜 E) hy.2
+     rw [this] at hy
+     exact hy.1
+   · intro hx
+     simp only [Set.mem_preimage, Set.mem_image]
+     use x
+  rw [← this]
+  exact isOpen_of_isOpen_WeakSpace ((continuousLinearMapToWeakSpace 𝕜 E) '' V) hV
```
Comment (mcdoll) [inline Mathlib/Topology/Algebra/Module/WeakDual.lean:381]:
```suggestion
  rw [← Equiv.image_preimage (toWeakSpace 𝕜 E).toEquiv V]
  exact isOpen_of_isOpen_WeakSpace ((toWeakSpace 𝕜 E) '' V) hV
```

File: Mathlib/Topology/Algebra/Module/WeakDual.lean [hunk 3]
```diff
@@ -326,6 +353,64 @@ theorem coe_map (f : E →L[𝕜] F) : (WeakSpace.map f : E → F) = f :=
...
+    {α : Type*} {l : Filter α} {f : α → E} {p : E} (hf : Tendsto f l (nhds p)) (y : E →L[𝕜] 𝕜) :
+    Tendsto (fun x => y (f x)) l (nhds (y p)) := by
+  exact Tendsto.comp (Continuous.tendsto (ContinuousLinearMap.continuous y) p) hf
+
+/-- If `f : E → α` is continuous from `E` in the weak topology,
+then it is continuous in the original topology. -/
+theorem continuous_of_continuous_WeakSpace
+    {α : Type*} [TopologicalSpace α] {f : (WeakSpace 𝕜 E) → α} (hf : Continuous f) :
+    Continuous (f ∘ (continuousLinearMapToWeakSpace 𝕜 E)) := by
+  exact Continuous.comp hf (continuousLinearMapToWeakSpace 𝕜 E).cont
```
Comment (mcdoll) [inline Mathlib/Topology/Algebra/Module/WeakDual.lean:412]: I don't see why we want to have these lemmas, they don't contain anything special about `WeakSpace`, but are simply statements about continuity and convergence.

File: Mathlib/Topology/Algebra/Module/WeakDual.lean [hunk 4]
```diff
@@ -326,6 +353,64 @@ theorem coe_map (f : E →L[𝕜] F) : (WeakSpace.map f : E → F) = f :=
...
+  apply hf ((continuousLinearMapToWeakSpace 𝕜 E) ⁻¹' U)
+    ((continuousLinearMapToWeakSpace 𝕜 E).cont.isOpen_preimage U hpU)
+  exact hU
+
+/-- If `f : α → E` is convergent in the original topology,
+then `y ∘ f` is convergent for any `y : E →L[𝕜] 𝕜`. -/
+theorem eval_tendsto_of_tendsto
+    {α : Type*} {l : Filter α} {f : α → E} {p : E} (hf : Tendsto f l (nhds p)) (y : E →L[𝕜] 𝕜) :
+    Tendsto (fun x => y (f x)) l (nhds (y p)) := by
+  exact Tendsto.comp (Continuous.tendsto (ContinuousLinearMap.continuous y) p) hf
```
Comment (mcdoll) [inline Mathlib/Topology/Algebra/Module/WeakDual.lean:405]: You can write this as `(y.continuous p).tendsto.comp hf`

Comment (yoh-tanimoto) [reply Mathlib/Topology/Algebra/Module/WeakDual.lean]: I guess you mean `((y.continuous).tendsto p).comp hf`, thank you, I used it.

File: Mathlib/Topology/Algebra/Module/WeakDual.lean [hunk 5]
```diff
@@ -326,6 +353,64 @@ theorem coe_map (f : E →L[𝕜] F) : (WeakSpace.map f : E → F) = f :=
   rfl
 #align weak_space.coe_map WeakSpace.coe_map
 
+/-- The canonical preimage in `E` of an open set in `WeakSpace 𝕜 E` is open in `E`. -/
+theorem isOpen_of_isOpen_WeakSpace (U : Set (WeakSpace 𝕜 E))
+    (hU : IsOpen[(WeakSpace.instTopologicalSpace : TopologicalSpace (WeakSpace 𝕜 E))] U) :
+    IsOpen ((continuousLinearMapToWeakSpace 𝕜 E) ⁻¹' U) := by
+  exact ((continuousLinearMapToWeakSpace 𝕜 E).cont).isOpen_preimage U hU
```
[the remark this answers is not in the document]
Comment (yoh-tanimoto) [reply Mathlib/Topology/Algebra/Module/WeakDual.lean:360]: I am not sure what to do with this comment, as you are using this lemma in your suggested code below.

File: Mathlib/Topology/Algebra/Module/WeakDual.lean (hunk 1 above)
Comment (yoh-tanimoto) [reply Mathlib/Topology/Algebra/Module/WeakDual.lean:375]: Do you mean something like
`theorem isOpenMap_continuousLinearMapToWeakSpace : IsOpenMap (continuousLinearMapToWeakSpace 𝕜 E)`? But this is not true...

Or do you mean
`theorem isOpenMap_inv_toWeakSpace : IsOpenMap (ToWeakSpace 𝕜 E).symm`? I included this.

File: Mathlib/Topology/Algebra/Module/WeakDual.lean (hunk 2 above)
Comment (yoh-tanimoto) [reply Mathlib/Topology/Algebra/Module/WeakDual.lean]: This code gives an error. Indeed, it seems to try to prove that `(continuousLinearMapToWeakSpace 𝕜 E)` is an open map, which is not. See above.

File: Mathlib/Topology/Algebra/Module/WeakDual.lean (hunk 3 above)
Comment (yoh-tanimoto) [reply Mathlib/Topology/Algebra/Module/WeakDual.lean]: It is true that it contains nothing special about `WeakSpace`, but as a mathematician I often say "a sequence is convergent in norm so it is convergent in the weak topology", or "a function is continuous from the weak topology, so it is continuous from the norm topology". Isn't it convenient to have such lemmas?

Comment (mcdoll) [reply Mathlib/Topology/Algebra/Module/WeakDual.lean]: Not really, the first one can be written as `(y.continuous.tendsto p).comp hf`, that is almost as short as `WeakSpace.eval_tendsto_of_tendsto  hf y`. The second one is `hf.comp (continuousLinearMapToWeakSpace k E).continuous`.

File: Mathlib/Topology/Algebra/Module/WeakDual.lean [hunk 6]
```diff
@@ -326,6 +353,74 @@ theorem coe_map (f : E →L[𝕜] F) : (WeakSpace.map f : E → F) = f :=
...
+  simp only [AddHom.toFun_eq_coe, LinearMap.coe_toAddHom, ContinuousLinearMap.coe_coe,
+    continuousLinearMapToWeakSpace_eq_toWeakSpace, LinearEquiv.symm_apply_apply]
+  intro x
+  simp only [AddHom.toFun_eq_coe, LinearMap.coe_toAddHom, ContinuousLinearMap.coe_coe,
+    continuousLinearMapToWeakSpace_eq_toWeakSpace, LinearEquiv.apply_symm_apply]
+
+/-- A set in `E` which is open in the weak topology is open. -/
+theorem isOpen_of_isOpen_WeakSpace' (V : Set E)
+    (hV : IsOpen[(WeakSpace.instTopologicalSpace)]
+    ((continuousLinearMapToWeakSpace 𝕜 E) '' V : Set (WeakSpace 𝕜 E))) : IsOpen V := by
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/Module/WeakDual.lean:375]: Just like the preimage version that follows from continuity, I'm not sure we need this as it's just the `simp` of the application of the `IsOpenMap` result. That is, the following proves this result:
```
theorem isOpen_of_isOpen_WeakSpace' (V : Set E)
    (hV : IsOpen ((continuousLinearMapToWeakSpace 𝕜 E) '' V : Set (WeakSpace 𝕜 E))) : IsOpen V := by
  simpa [Set.image_image] using isOpenMap_inv_toWeakSpace _ hV
```
However, we can keep it (without the `'` in the name) if you prefer.
Note also, you don't need to keep specifying `IsOpen[topologicalSpace-instance]`, you can just use `IsOpen`. That's one of the reasons we have a type synonym.

File: Mathlib/Topology/Algebra/Module/WeakDual.lean [hunk 7]
```diff
@@ -326,6 +353,74 @@ theorem coe_map (f : E →L[𝕜] F) : (WeakSpace.map f : E → F) = f :=
...
+     use x
+  rw [← this]
+  exact isOpen_of_isOpen_WeakSpace ((continuousLinearMapToWeakSpace 𝕜 E) '' V) hV
+
+/-- If `f : α → E` is convergent in the original topology,
+then it is convergent in the weak topology. -/
+theorem tendsto_WeakSpace_of_tendsto
+    {α : Type*} {l : Filter α} {f : α → E} {p : E} (hf : Tendsto f l (nhds p)) :
+    Tendsto (fun x ↦ (continuousLinearMapToWeakSpace 𝕜 E) (f x))
+    l (nhds ((continuousLinearMapToWeakSpace 𝕜 E) p)) := by
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/Module/WeakDual.lean:398]: This is also not necessary, as it's just chaining of existing lemmas:
```
  (continuousLinearMapToWeakSpace 𝕜 E).cont.tendsto p |>.comp hf
```

File: Mathlib/Topology/Algebra/Module/WeakDual.lean [hunk 8]
```diff
@@ -326,6 +353,74 @@ theorem coe_map (f : E →L[𝕜] F) : (WeakSpace.map f : E → F) = f :=
...
+  rw [this, Set.preimage_comp]
+  apply hf ((continuousLinearMapToWeakSpace 𝕜 E) ⁻¹' U)
+    ((continuousLinearMapToWeakSpace 𝕜 E).cont.isOpen_preimage U hpU)
+  exact hU
+
+/-- If `f : α → E` is convergent in the original topology,
+then `y ∘ f` is convergent for any `y : E →L[𝕜] 𝕜`. -/
+theorem eval_tendsto_of_tendsto
+    {α : Type*} {l : Filter α} {f : α → E} {p : E} (hf : Tendsto f l (nhds p)) (y : E →L[𝕜] 𝕜) :
+    Tendsto (fun x => y (f x)) l (nhds (y p)) := by
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/Module/WeakDual.lean:414]: This is not necessary either, and note that it's just a generalization of the previous lemma.

**Review by j-loreaux — COMMENTED** [review]
Sorry, a lot of these just aren't necessary because they are just chaining together very generic lemmas. I know it's hard to tell as a new contributor which things are lemmas we need versus which ones are simply missing.

File: Mathlib/Topology/Algebra/Module/WeakDual.lean [hunk 9]
```diff
@@ -326,6 +353,74 @@ theorem coe_map (f : E →L[𝕜] F) : (WeakSpace.map f : E → F) = f :=
...
+    {α : Type*} {l : Filter α} {f : α → E} {p : E} (hf : Tendsto f l (nhds p)) :
+    Tendsto (fun x ↦ (continuousLinearMapToWeakSpace 𝕜 E) (f x))
+    l (nhds ((continuousLinearMapToWeakSpace 𝕜 E) p)) := by
+  refine tendsto_nhds.mpr ?_
+  intro U hpU hU
+  rw [tendsto_nhds] at hf
+  have : (fun x ↦ (continuousLinearMapToWeakSpace 𝕜 E) (f x))
+    = (fun x ↦ ((continuousLinearMapToWeakSpace 𝕜 E) ∘ f) x) := by
+    rfl
+  rw [this, Set.preimage_comp]
```
[the remark this answers is not in the document]
Comment (j-loreaux) [reply Mathlib/Topology/Algebra/Module/WeakDual.lean:405]: Moritz, I only half agree with this. While it's true that it's *acceptable*, I would say it's still discouraged, because it generally means that didn't find the right lemma, or the right lemma doesn't exist and it should be written. In this case, the right lemma is `Function.comp_apply`.

File: Mathlib/Topology/Algebra/Module/WeakDual.lean (hunk 5 above)
[the remark this answers is not in the document]
Comment (yoh-tanimoto) [reply Mathlib/Topology/Algebra/Module/WeakDual.lean]: ok, I removed this

File: Mathlib/Topology/Algebra/Module/WeakDual.lean (hunk 2 above)
Comment (yoh-tanimoto) [reply Mathlib/Topology/Algebra/Module/WeakDual.lean]: As you didn't tell me to remove this, I assume that this is needed.

File: Mathlib/Topology/Algebra/Module/WeakDual.lean (hunk 3 above)
Comment (yoh-tanimoto) [reply Mathlib/Topology/Algebra/Module/WeakDual.lean]: ok, I removed them

File: Mathlib/Topology/Algebra/Module/WeakDual.lean (hunk 9 above)
[the remark this answers is not in the document]
Comment (yoh-tanimoto) [reply Mathlib/Topology/Algebra/Module/WeakDual.lean]: this is no longer needed as it was a part of a theorem now removed

File: Mathlib/Topology/Algebra/Module/WeakDual.lean (hunk 6 above)
Comment (yoh-tanimoto) [reply Mathlib/Topology/Algebra/Module/WeakDual.lean]: thanks, I used the code you suggested.

File: Mathlib/Topology/Algebra/Module/WeakDual.lean (hunk 7 above)
Comment (yoh-tanimoto) [reply Mathlib/Topology/Algebra/Module/WeakDual.lean]: ok, I removed this

File: Mathlib/Topology/Algebra/Module/WeakDual.lean (hunk 8 above)
Comment (yoh-tanimoto) [reply Mathlib/Topology/Algebra/Module/WeakDual.lean]: I removed this, see above

File: Mathlib/Topology/Algebra/Module/WeakDual.lean [hunk 10]
```diff
@@ -326,6 +350,16 @@ theorem coe_map (f : E →L[𝕜] F) : (WeakSpace.map f : E → F) = f :=
   rfl
 #align weak_space.coe_map WeakSpace.coe_map
 
+/-- The canonical map from `WeakSpace 𝕜 E` to `E` is an open map. -/
+theorem isOpenMap_inv_toWeakSpace : IsOpenMap (toWeakSpace 𝕜 E).symm :=
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/Module/WeakDual.lean:354]:
```suggestion
theorem isOpenMap_toWeakSpace_symm : IsOpenMap (toWeakSpace 𝕜 E).symm :=
```

File: Mathlib/Topology/Algebra/Module/WeakDual.lean [hunk 11]
```diff
@@ -326,6 +350,16 @@ theorem coe_map (f : E →L[𝕜] F) : (WeakSpace.map f : E → F) = f :=
...
+  IsOpenMap.of_inverse (continuousLinearMapToWeakSpace 𝕜 E).cont
+    (toWeakSpace 𝕜 E).left_inv (toWeakSpace 𝕜 E).right_inv
+
+/-- A set in `E` which is open in the weak topology is open. -/
+theorem isOpen_of_isOpen_WeakSpace (V : Set E)
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/Module/WeakDual.lean:359]: This is already in the `WeakSpace` namespace, so no need to duplicate the name.
```suggestion
theorem isOpen_of_isOpen (V : Set E)
```

**Review by j-loreaux — COMMENTED** [review]
Aside from `isOpen_of_isOpen`, I don't think any of the declarations you added should be in the `WeakSpace` namespace. I suggest moving them all to the end, right after the `end WeakSpace`.

Sorry for the delay in review. This should be the last set of changes.

**Comment by yoh-tanimoto** [comment]
Thanks for your review!
As `isOpen_of_isOpen` depends on the definitions and `isOpenMap_toWeakSpace_symm` as well, I moved everything out of namespace. I hope this is fine.

File: Mathlib/Topology/Algebra/Module/WeakDual.lean [hunk 12]
```diff
@@ -326,8 +327,42 @@ theorem coe_map (f : E →L[𝕜] F) : (WeakSpace.map f : E → F) = f :=
...
+    Function.Bijective (continuousLinearMapToWeakSpace 𝕜 E) :=
+  (toWeakSpace 𝕜 E).bijective
+
+/-- The canonical map from `WeakSpace 𝕜 E` to `E` is an open map. -/
+theorem isOpenMap_toWeakSpace_symm : IsOpenMap (toWeakSpace 𝕜 E).symm :=
+  IsOpenMap.of_inverse (continuousLinearMapToWeakSpace 𝕜 E).cont
+    (toWeakSpace 𝕜 E).left_inv (toWeakSpace 𝕜 E).right_inv
+
+/-- A set in `E` which is open in the weak topology is open. -/
+theorem isOpen_of_isOpen (V : Set E)
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/Module/WeakDual.lean:362]:
```suggestion
theorem WeakSpace.isOpen_of_isOpen (V : Set E)
```

File: Mathlib/Topology/Algebra/Module/WeakDual.lean [hunk 13]
```diff
@@ -307,6 +307,7 @@ instance instTopologicalSpace : TopologicalSpace (WeakSpace 𝕜 E) :=
 instance instContinuousAdd : ContinuousAdd (WeakSpace 𝕜 E) :=
   WeakBilin.instContinuousAdd (topDualPairing 𝕜 E).flip
 
+
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/Module/WeakDual.lean:310]: Let's keep the diff clean
```suggestion
```

File: Mathlib/Topology/Algebra/Module/WeakDual.lean [hunk 14]
```diff
@@ -326,8 +327,42 @@ theorem coe_map (f : E →L[𝕜] F) : (WeakSpace.map f : E → F) = f :=
   rfl
 #align weak_space.coe_map WeakSpace.coe_map
 
+
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/Module/WeakDual.lean:330]: Same here
```suggestion
```

**Review by j-loreaux — COMMENTED** [review]
These should be the last ones.

**Comment by yoh-tanimoto** [comment]
OK, I committed all your suggestions.

**Comment by j-loreaux** [comment]
Thanks!

bors merge
